US06011174
(1) Preparation of 3-methoxy-4-phenoxybenzaldehyde
6.0 g of 4-hydroxy-3-methoxybenzaldehyde, 75 ml of pyridine, 12.0 g of iodobenzene, 10.9 g of potassium carbonate and 6.24 g of cupric oxide were mixed and heated at 145° C. for 18 hours in a sealed tube. The reaction solution was left to cool to room temperature and then diluted with ethyl acetate and subjected to celite filtration. The filtrate was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to obtain 1.11 g (yield: 12%) of the above identified compound as a colorless oily substance.

reactant | 4-hydroxy-3-methoxybenzaldehyde | 6.0 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
reactant | iodobenzene | 12.0 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 10.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methoxy-4-phenoxybenzaldehyde | yield: 12% | COC=1C=C(C=O)C=CC1OC1=CC=CC=C1 | C14H12O3
